US07795193B2
2-ethylhexyl laurate was prepared by esterification reaction between lauric acid and 2-ethylhexanol in the presence of p-toluenesulfonic acid as a catalyst, and subsequent steps for recovery of unreacted 2-ethylhexanol, neutralization, washing with hot water, and dehydration.

reactant | lauric acid | C(CCCCCCCCCCC)(=O)O | C12H24O2
reactant | 2-ethylhexanol | C(C)C(CO)CCCC | C8H18O
catalyst | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-ethylhexyl laurate | C(CCCCCCCCCCC)(=O)OCC(CCCC)CC | C20H40O2
